US07498337B2
1-[4-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate
To a solution of 4-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (429 mg) in tetrahydrofuran (5 mL) and methanol (3 mL) was added a 40% methylamine methanol solution (275 mg) at room temperature. After stirring for 30 min, sodium borohydride (99 mg) was added. After stirring at the same temperature for 1 hr, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=1:11→1:9) to give a free salt of the title compound as a yellow oil (yield 257 mg). A solution of the obtained free salt in ethyl acetate (5 L) was added to a solution (10 mL) of fumaric acid (79 mg) in methanol, and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the title compound as colorless crystals (yield 216 mg, 36%).

reactant | 4-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 429 mg | ClC=1C(=CN(C1C1=C(C=CC=C1)F)S(=O)(=O)C=1C=NC=CC1)C=O | C16H10ClFN2O3S
reactant | methylamine methanol | 275 mg | CO.CN
reactant | sodium borohydride | 99 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | 1-[4-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate | yield 257 mg | C(\C=C\C(=O)O)(=O)O.ClC=1C(=CN(C1C1=C(C=CC=C1)F)S(=O)(=O)C=1C=NC=CC1)CNC | InChI=1S/C17H15ClFN3O2S.C4H4O4/c1-20-9-12-11-22(25(23,24)13-5-4-8-21-10-13)17(16(12)18)14-6-2-3-7-15(14)19;5-3(6)1-2-4(7)8/h2-8,10-11,20H,9H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
